US07470713B2
(S)-4-(2-(3-chlorophenyl)-2-hydroxyethylamino)-3-(4-methyl-5-(morpholine-4-carbonyl)-1H-imidazol-2-yl)pyridin-2(1H)-one:
(2-(4-Iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazol-5-yl)(morpholino)methanone (0.007 g, 0.017 mmol) was dissolved in acetic acid (1 mL) and concentrated hydrochloric acid (1 mL) and this mixture was stirred at 100° C. for 1 hour. The mixture was then evaporated and the residue was dissolved in N,N-dimethylformamide (2 mL) and treated with triethylamine (100 μL, 0.72 mmol) and the hydrochloric acid salt of (S)-2-amino-1-[3-chlorophenyl]ethanol (0.010 g, 0.048 mmol). The mixture was heated at 90° C. for 4 hours, then the solvent was evaporated and the residue was purified by Prep HPLC (ammonium acetate/acetonitrile/water) to give the title compound (0.002 g, 25%) as a white solid. HPLC 100% (220 nm), LCMS (+ESI, M+H+) m/z 458; 1H NMR (400 MHz, methanol-d4) δ (ppm): 2.37 (3H, s), 3.45-4.0 (10H, m), 4.7-4.9 (1H, m, overlapped by D2O), 6.10 (1H, d, J=7.8 Hz), 7.10 (1H, d, J=7.6 Hz), 7.14-7.24 (3H, m), 7.36 (1H, s), 10.26 (1H, br s).

reactant | (2-(4-Iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazol-5-yl)(morpholino)methanone | 0.017 mmol, 0.007 g | IC1=C(C(=NC=C1)OC)C=1NC(=C(N1)C)C(=O)N1CCOCC1 | C15H17IN4O3
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | triethylamine | 0.72 mmol, 100 μL | C(C)N(CC)CC | C6H15N
reactant | (S)-2-amino-1-[3-chlorophenyl]ethanol | 0.048 mmol, 0.010 g | NC[C@@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | (S)-4-(2-(3-chlorophenyl)-2-hydroxyethylamino)-3-(4-methyl-5-(morpholine-4-carbonyl)-1H-imidazol-2-yl)pyridin-2(1H)-one | 0.002 g, 25% | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(NC=C1)=O)C=1NC(=C(N1)C)C(=O)N1CCOCC1)O | C22H24ClN5O4
